US08022222B2
Using the method of Example 3, Step B, 2-chloroisonicotinic acid, methyl ester (4.734 g, 27.59 mmol), 2-amino-4-methylthiazole (3.0 g, 26.28 mmol), potassium phosphate (2.393 ml, 28.90 mmol), Pd2(dba)3 (0.6016 g, 0.6569 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.4181 g, 0.7226 mmol) in toluene (20 mL) and water (0.5 mL) were reacted to afford methyl 2-(4-methylthiazol-2-ylamino)isonicotinate (4.682 g, 71.48% yield) as a white solid. 1H NMR (CDCl3) δ 10.25 (bs, 1H), 8.47 (dd, 1H), 7.40 (m, 1H), 7.39 (dd, 1H), 6.45 (d, 1H), 3.94 (s, 3H), 2.39 (d, 3H); Mass spectrum (apci) m/z=250 (100) (M+H).

reactant | 2-chloroisonicotinic acid, methyl ester | 27.59 mmol, 4.734 g | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | 2-amino-4-methylthiazole | 26.28 mmol, 3.0 g | NC=1SC=C(N1)C | C4H6N2S
reactant | potassium phosphate | 28.90 mmol, 2.393 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.6569 mmol, 0.6016 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.7226 mmol, 0.4181 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | methyl 2-(4-methylthiazol-2-ylamino)isonicotinate | 4.682 g, 71.48% yield | CC=1N=C(SC1)NC=1C=C(C(=O)OC)C=CN1 | C11H11N3O2S
